US08937092B2
To a solution of ethyl 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoate (60 mg, 0.189 mmol) in tetrahydrofuran and water co-solvent, sodium hydroxide (19 mg) was added at room temperature. The mixture was stirred for overnight and extracted with ethyl acetate, dried over magnesium sulfate, the solvent was evaporated in vacuo. It was purified by column chromatography to give 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoic acid (55 mg).

reactant | ethyl 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoate | 0.189 mmol, 60 mg | C(C)S(=O)(=O)NCC1=C(C=C(C=C1)C(C(=O)OCC)C)F | C14H20FNO4S
reactant | sodium hydroxide | 19 mg | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoic acid | 55 mg | C(C)S(=O)(=O)NCC1=C(C=C(C=C1)C(C(=O)O)C)F | C12H16FNO4S
